*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/2.20e-05[uF]/630[V]
* Murata P/N :GCM21A5C2J220GX01
* Property : C = 2.20e-05[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-3[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21A5C2J220GX01 Port1 Port2
C01 Port1 N01 2.20e-11
R01 Port1 N01 1.00e+11
L02 N01 N02 4.81e-12
R03 N02 N03 2.25e-01
C04 N03 N04 6.62e-10
R04 N03 N04 1.10e+02
C05 N04 N05 1.50e-10
L05 N04 N05 1.05e-11
R05 N04 N05 2.38e+00
C06 N05 N06 8.06e-12
L06 N05 N06 8.30e-11
R06 N05 N06 2.38e+01
C07 N06 N07 1.37e-11
L07 N06 N07 2.91e-11
R07 N06 N07 4.04e+00
C08 N07 Port2 7.54e-13
L08 N07 Port2 4.08e-10
R08 N07 Port2 2.42e+02
.ENDS GCM21A5C2J220GX01
